US06855730B2
A mixture of 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 6-(3-ethoxyphenyl)-2-oxindole (304 mg), and piperidine (2 drops) in ethanol (5 mL) were held at 90° C. overnight. The precipitate that formed was filtered, washed with ethanol. The precipitate, an orange solid, was stirred with potassium hydroxide (4 pellets) in ethanol (3 mL) at 90° C. for 2.5 hours. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 370 mg of 4-(2-Carboxyethyl)-5-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid.

reactant | 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 6-(3-ethoxyphenyl)-2-oxindole | 304 mg | C(C)OC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C16H15NO2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(2-Carboxyethyl)-5-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid | 370 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC(=CC=C12)C1=CC(=CC=C1)OCC)=O)C(=O)O)C | C26H24N2O6
